US04439373
To a solution of barium hydroxide (160 g, 0.93 mole) in water (3.5 L), a solution of glycine (37.5 g, 0.5 mole) in water (200 ml) was added. After adding phenolphthalein (several drops), carbon dioxide gas was bubbled into the reaction mixture, at a constant rate, until the pink color of the indicator disappeared. The reaction mixture was cooled and filtered to obtain 105 g (84%) glycine carbamate barium salt (Ba++ - O2CNHCH2CO2-)

reactant | barium hydroxide | 0.93 mole, 160 g | [OH-].[Ba+2].[OH-]
reactant | glycine | 0.5 mole, 37.5 g | NCC(=O)O | C2H5NO2
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 3.5 L | O | H2O
solvent | water | 200 ml | O | H2O
catalyst | phenolphthalein | several drops | C=1C=CC2=C(C1)C(=O)OC2(C=3C=CC(=CC3)O)C=4C=CC(=CC4)O | C20H14O4
product | glycine carbamate barium salt | 105 g, 84% | [Ba+2].C(N)([O-])=O.NCC(=O)O.C(N)([O-])=O | InChI=1S/C2H5NO2.2CH3NO2.Ba/c3-1-2(4)5;2*2-1(3)4;/h1,3H2,(H,4,5);2*2H2,(H,3,4);/q;;;+2/p-2
